US05260051
Preparation of Decyl Lactate by Direct Esterification
A 500 ml one neck round bottom flask equipped with a Dean Stark trap, condenser and nitrogen inlet-outlet was charged with 22.52 g (0.75 moles) lactic acid, 47.46 g (0.98 moles) decyl alcohol, 3 ml sulfuric acid and 220 mL toluene. The mixture was heated to 145° C. for 20 hours and water was collected as the reaction proceeded. The acid was neutralized by washing three times with 50 ml saturated sodium bicarbonate solution. Approximately 50 ml ether was needed to break the emulsion. The organic layer was collected and dried over magnesium sulfate. Decyl lactate was distilled under high vacuum to yield 24.03 g (12.4% yield) of clear colorless liquid. According to GC the product is 97.78% pure.

reactant | lactic acid | 0.75 moles, 22.52 g | C(C(O)C)(=O)O | C3H6O3
reactant | decyl alcohol | 0.98 moles, 47.46 g | C(CCCCCCCCC)O | C10H22O
reactant | sulfuric acid | 3 ml | S(O)(O)(=O)=O | H2O4S
solvent | toluene | 220 mL | C1(=CC=CC=C1)C | C7H8
product | Decyl Lactate | 24.03 g, 12.4% yield | C(C(O)C)(=O)OCCCCCCCCCC | C13H26O3
